US05486466
To a suspension of 22.8 g of 3-hydroxy-2-methylbenzoic acid in 300 ml of water, cooled to 2° C., were added 55 ml of 3N sodium hydroxyde to adjust the pH to 10. To the clear solution were added within 20 minutes, at 2° to 6° C., 125 ml of 1.2N sodium hypochlorite solution, the pH being raised to 12.5. Then, 90 ml of 3N hydrochloric acid were added at once, a precipitate being formed immediately. The mixture was stirred at 0° C. for 30 minutes, and subsequently the precipitate was isolated by filtration and crystallized from diethylether/hexane to give 15.0 g of 4-chloro-3-hydroxy-2-methylbenzoic acid as white crystals of m.p. 191° C.

reactant | 3-hydroxy-2-methylbenzoic acid | 22.8 g | OC=1C(=C(C(=O)O)C=CC1)C | C8H8O3
reactant | sodium | 3N, 55 ml | [Na] | Na
reactant | sodium hypochlorite | 1.2N, 125 ml | Cl[O-].[Na+]
reactant | hydrochloric acid | 3N, 90 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 4-chloro-3-hydroxy-2-methylbenzoic acid | 15.0 g | ClC1=C(C(=C(C(=O)O)C=C1)C)O | C8H7ClO3
